US04352805
A mixture of 5.00 g (25.5 mmoles) of 3-(3,4-dimethoxyphenyl)propanol, 1.94 g (25.5 mmoles) of thiourea, and 8.5 ml of 48% hydrobomic acid is heated on steam bath for 1 hour, allowed to stand overnight at room temperature, and then heated again on a steam bath for 2 hours. After cooling, the reaction mixture is treated with 76.5 ml of 1 M sodium hydroxide and heated on the steam bath for 11/2 hours. After cooling, the reaction mixture is made acidic with 1 N hydrochloric acid and extracted with methylene chloride (followed by a brine wash). Silica gel chromatography using 10% ethyl acetate/Skellysolve B as eluent gives 0.67 g of 3-(3,4-dimethoxyphenyl)-1-propanethiol.

reactant | 3-(3,4-dimethoxyphenyl)propanol | 25.5 mmoles, 5.00 g | COC=1C=C(C=CC1OC)CCCO | C11H16O3
reactant | thiourea | 25.5 mmoles, 1.94 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 1 M, 76.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
product | 3-(3,4-dimethoxyphenyl)-1-propanethiol | 0.67 g | COC=1C=C(C=CC1OC)CCCS | C11H16O2S
